US04517185
4,4-Diphenyl-2-(1-methylpropylthio)-5-oxo-2-pyrroline-3-carbonitrile
0.8 g. Sodium is dissolved in 150 ml. absolute ethanol, 10.0 g. 5-hydroxy-4,5-diphenyl-2-thioxo-3-pyrroline-3-carbonitrile are added thereto and the reaction mixture is boiled for 30 minutes. The solvent is thereafter removed on a rotary evaporator and the residue is taken up in 100 ml. dimethylformamide. 5.1 g. sec.-Butyl bromide are added thereto, the reaction mixture is stirred for 24 hours at ambient temperature, a further 3.0 g. of the alkylating agent are again added thereto and stirring is continued for 24 hours. Thereafter, the solvent is distilled off under wafter pump vacuum and the residue is triturated with water. The precipitate is filtered off with suction, washed with water and crystallised from ethanol. There are obtained 7.0 g. of the desired product in the form of colourless crystals; m.p. 155°-156° C.

reactant | Sodium | [Na] | Na
reactant | 5-hydroxy-4,5-diphenyl-2-thioxo-3-pyrroline-3-carbonitrile | OC1(C(=C(C(N1)=S)C#N)C1=CC=CC=C1)C1=CC=CC=C1 | C17H12N2OS
solvent | ethanol | C(C)O | C2H6O
product | 4,4-Diphenyl-2-(1-methylpropylthio)-5-oxo-2-pyrroline-3-carbonitrile | C1(=CC=CC=C1)C1(C(=C(NC1=O)SC(CC)C)C#N)C1=CC=CC=C1 | C21H20N2OS
